US05858995
A solution of hydrogen peroxide in trifluoroacetic acid (1M, 0.32 ml) wa s added to a solution of 6-(2,6-dichlorobenzoylamino)-3,4-dihydro-1H-thiopyrano-[4,3-b]benzofuran (120 mg) in trifluoroacetic acid (2.5 ml) at 4° C. The mixture was stirred at ambient temperature for 30 minutes and to the mixture was added water. The separated solid was collected and dried. The obtained solid was suspended in hot ethanol and to the mixture was added water. The mixture was cooled and the separated solid was collected to give 6-(2,6-dichlorobenzoylamino)-3,4-dihydro-1H-thiopyrano[4, 3-b]-benzofuran 2-oxide (70 mg).

reactant | hydrogen peroxide | OO | H2O2
reactant | 6-(2,6-dichlorobenzoylamino)-3,4-dihydro-1H-thiopyrano-[4,3-b]benzofuran | 120 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCSC4)C(=CC=C1)Cl | C18H13Cl2NO2S
reactant | water | O | H2O
solvent | trifluoroacetic acid | 1M, 0.32 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(2,6-dichlorobenzoylamino)-3,4-dihydro-1H-thiopyrano[4, 3-b]-benzofuran 2-oxide | 70 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(OC32)CCS(C4)=O)C(=CC=C1)Cl | C18H13Cl2NO3S
